US08729068B2
Under ice-cooling, to a mixture of 18.0 g of cyanoacetic acid and 25 mL of oxalyl chloride were added 0.07 mL of DMF and 10 mL of dichloromethane, followed by stirring at room temperature for 3 hours. The reaction mixture was concentrated under reduced pressure, and then to the residue was added toluene, followed by further concentrating under reduced pressure. This procedure was repeated and excess hydrogen chloride and oxalyl chloride were removed. A mixture of the obtained crude product and 50 mL of dichloromethane was added to a mixture of 80 mL of a 1 M aqueous sodium hydroxide solution, 300 mL of dichloromethane, and 14.3 g of 4-(pyridin-4-ylmethyl)aniline under ice-cooling. During mixing the reagent, a 1 M aqueous sodium hydroxide solution was added on time to adjust the reaction solution to be kept alkaline. After stirring at room temperature for 30 minutes, the organic layer was collected by separation and the aqueous layer was extracted with dichloromethane. The combined organic layer was dried over anhydrous sodium sulfate and then the solvent was evaporated under reduced pressure. The obtained residue was recrystallized from ethanol to obtain 10.2 g of 2-cyano-N-[4-(pyridin-4-ylmethyl)phenyl]acetamide as a pale yellow solid.

reactant | cyanoacetic acid | 18.0 g | C(#N)CC(=O)O | C3H3NO2
reactant | oxalyl chloride | 25 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | sodium hydroxide | 1 M | [OH-].[Na+]
reactant | 4-(pyridin-4-ylmethyl)aniline | 14.3 g | N1=CC=C(C=C1)CC1=CC=C(N)C=C1 | C12H12N2
reactant | sodium hydroxide | 1 M | [OH-].[Na+]
solvent | dichloromethane | 300 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | DMF | 0.07 mL | CN(C)C=O | C3H7NO
product | 2-cyano-N-[4-(pyridin-4-ylmethyl)phenyl]acetamide | 10.2 g | C(#N)CC(=O)NC1=CC=C(C=C1)CC1=CC=NC=C1 | C15H13N3O
